US05837708
9.2 g of 4-[4-chloro-5-(2-chloro-5-methoxy-phenoxy )-6-methyl-pyrimidin-2-yl]-morpholine and 17.8 g of 5-isopropyl-pyridine-2-sulphonamide potassium in 130 ml of dry dimethyl sulphoxide were heated to 120° C. under argon for 16 hours. Thereafter, the dimethyl sulphoxide was distilled off, the residue was partitioned between ethyl acetate and 1 N hydrochloric acid and the organic phase was washed neutral. The organic phase was dried, the solvent was evaporated and the residue was recrystallized from ethanol. 10.3 g of 5-isopropyl-pyridine-2-sulphonic acid 5-(2-chloro-5-methoxy-phenoxy )-6-methyl-2-morpholin-4-yl-pyrimidin-4-ylamide, MS: M =534, were obtained.

reactant | 4-[4-chloro-5-(2-chloro-5-methoxy-phenoxy )-6-methyl-pyrimidin-2-yl]-morpholine | 9.2 g | ClC1=NC(=NC(=C1OC1=C(C=CC(=C1)OC)Cl)C)N1CCOCC1 | C16H17Cl2N3O3
reactant | 5-isopropyl-pyridine-2-sulphonamide potassium | 17.8 g | [K].C(C)(C)C=1C=CC(=NC1)S(=O)(=O)N
solvent | dimethyl sulphoxide | 130 ml | CS(=O)C | C2H6OS
product | 5-isopropyl-pyridine-2-sulphonic acid 5-(2-chloro-5-methoxy-phenoxy )-6-methyl-2-morpholin-4-yl-pyrimidin-4-ylamide | 10.3 g | ClC1=C(OC=2C(=NC(=NC2C)N2CCOCC2)NS(=O)(=O)C2=NC=C(C=C2)C(C)C)C=C(C=C1)OC | C24H28ClN5O5S
